US05356752
2nd stage: Preparation of 3-methoxy-4-tert.-butoxycarbonyloxy-benzaldehyde di-(phenylethyl)-acetal
An amount of 1.1 g (3.36 mmol) of 3-methoxy-4-tert.-butoxycarbonyloxy-benzaldehyde diethylacetal was dissolved in 40 ml of dried toluene. After the addition of 0.82 g (6.71 mmol) of phenylethanol and 16 mg of potassium hydrogen sulfate, the resulting mixture was stirred for 2 hours under reflux. The ethanol formed was then distilled off slowly, while more, toluene was added to the mixture. After complete removal of the ethanol, the mixture was cooled down and the potassium hydrogen sulfate was filtered off. The filtrate was concentrated in a rotary evaporator. This gave a yellowish, viscous oil, which was dried on an oil pump.

reactant | 3-methoxy-4-tert.-butoxycarbonyloxy-benzaldehyde diethylacetal | 3.36 mmol, 1.1 g | C(C)OC(C1=CC(=C(C=C1)OC(=O)OC(C)(C)C)OC)OCC | C17H26O6
reactant | phenylethanol | 6.71 mmol, 0.82 g | C=1C=CC(=CC1)CCO | C8H10O
reactant | potassium hydrogen sulfate | 16 mg | S(=O)(=O)(O)[O-].[K+]
reactant | ethanol | C(C)O | C2H6O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 3-methoxy-4-tert.-butoxycarbonyloxy-benzaldehyde di-(phenylethyl)-acetal | C1(=CC=CC=C1)CCOC(C1=CC(=C(C=C1)OC(=O)OC(C)(C)C)OC)OCCC1=CC=CC=C1 | C29H34O6
